US03932426
To a solution of 3-(4-hydroxypiperidino)acetyl-5-phenylisoxazole (25 mg) in ether (10 ml) is added a solution of sodium borohydride (15 mg) in ethanol (1.0 ml) with stirring and then the mixture is stirred for 1 hour. After being cooled, the mixture is acidified with a dilute hydrochloric acid and evaporated under reduced pressure. To the residue is added water and the solution is made alkaline with an aqueous solution of potassium hydroxide, then extracted with chloroform. After removal of the solvent, the residue is subjected to a chromatography using silica gel to give crystalline 3-[1-hydroxy-2-(4-hydroxypiperidino) ethyl]-5-phenylisoxazole. Recrystallization from a mixture of ethyl acetate and hexane gives colorless prisms (20 mg) melting at 117-119°C.

reactant | 3-(4-hydroxypiperidino)acetyl-5-phenylisoxazole | 25 mg | OC1CCN(CC1)CC(=O)C1=NOC(=C1)C1=CC=CC=C1 | C16H18N2O3
reactant | sodium borohydride | 15 mg | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | ethanol | 1.0 ml | C(C)O | C2H6O
product | 3-[1-hydroxy-2-(4-hydroxypiperidino) ethyl]-5-phenylisoxazole | OC(CN1CCC(CC1)O)C1=NOC(=C1)C1=CC=CC=C1 | C16H20N2O3
